US06465507B2
5-Methyl-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one was formylated under standard Vilsmeier conditions using DMF (3 equiv.) and POCl3 (1.1 equiv.) to give 250 mg (33%) of 5-methyl-4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde.

reactant | 5-Methyl-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one | CN1C(C=2C(CC1)=CNC2)=O | C8H10N2O
reactant | DMF | 3 equiv. | CN(C)C=O | C3H7NO
reactant | POCl3 | 1.1 equiv. | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-methyl-4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde | 250 mg, 33% | CN1C(C=2C(CC1)=C(NC2)C=O)=O | C9H10N2O2
